US08114893B2
Step 2: Preparation of title compound 2-(1-(benzo[d]thiazol-2-ylcarbamoyl)-1,2,3,4-tetrahydroquinolin-7-yl)-5-(3-phenoxypropyl)thiazole-4-carboxylic acid (24)
To ethyl 2-(1-(benzo[d]thiazol-2-ylcarbamoyl)-1,2,3,4-tetrahydroquinolin-7-yl)-5-(3-phenoxypropyl)thiazole-4-carboxylate in 1:1 MeOH and THF (2 mL) was added LiOH (5 mg, 0.21 mmol) dissolved in water (2 mL). The reaction mixture was stirred at 60° C. for 1 hour. The reaction mixture was concentrated under reduced pressure. To this crude material was added water and MeOH and allowed to sit overnight. The resulting precipitate was filtered and washed with water. To this solid was added water and acetonitrile and lyophilized to give 12 mg of the desired product 2-(1-(benzo[d]thiazol-2-ylcarbamoyl)-1,2,3,4-tetrahydroquinolin-7-yl)-5-(3-phenoxypropyl)thiazole-4-carboxylic acid (24). 1H NMR (400 MHz, DMSO) δ 8.62 (s, 1H), 7.60 (s, 2H), 7.51-7.33 (m, 3H), 7.27 (t, J=8.0, 3H), 7.17 (t, J=7.7, 2H), 6.92 (dd, J=7.5, 14.2, 5H), 4.03 (t, J=6.4, 3H), 3.95 (s, 2H), 3.42 (d, J=7.8, 4H), 2.78 (s, 2H), 2.10 (s, 3H), 1.88 (d, J=9.5, 3H).

reactant | ethyl 2-(1-(benzo[d]thiazol-2-ylcarbamoyl)-1,2,3,4-tetrahydroquinolin-7-yl)-5-(3-phenoxypropyl)thiazole-4-carboxylate | S1C(=NC2=C1C=CC=C2)NC(=O)N2CCCC1=CC=C(C=C21)C=2SC(=C(N2)C(=O)OCC)CCCOC2=CC=CC=C2 | C32H30N4O4S2
reactant | MeOH | CO | CH4O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | LiOH | 0.21 mmol, 5 mg | [Li+].[OH-]
solvent | water | 2 mL | O | H2O
product | 2-(1-(benzo[d]thiazol-2-ylcarbamoyl)-1,2,3,4-tetrahydroquinolin-7-yl)-5-(3-phenoxypropyl)thiazole-4-carboxylic acid | 12 mg | S1C(=NC2=C1C=CC=C2)NC(=O)N2CCCC1=CC=C(C=C21)C=2SC(=C(N2)C(=O)O)CCCOC2=CC=CC=C2 | C30H26N4O4S2
